US04808762
A solution of 16.0 grams (0.083 mole) of 2-trimethylsilyl-1,3-dithiane in 80 mL of tetrahydrofuran was cooled to 0° C., and 39 mL (0.083 mole) of n-butyllithium (2.1M in hexane) was added. The reaction mixture was stirred for 15 minutes, and 15.0 grams (0.083 mole) of cyclopropyl (4-chlorophenyl) ketone in 40 mL of tetrahydrofuran was added via syringe during a five minute period. Upon completion of addition, the reaction mixture was stirred at 0° C. for 15 minutes and then was allowed to warm for 30 minutes. The reaction mixture was stirred with 100 mL of an aqueous solution saturated with sodium chloride, and then the two phases were separated. The aqueous phase was extracted with one portion of diethyl ether. The ether extract was combined with the organic phase, and this mixture was dried with magnesium sulfate and filtered through a pad of silica gel. The filtrate was concentrated under reduced pressure, yielding 24.0 grams of 2-[(4-chlorophenyl)cyclopropylmethylene]-1,3-dithiane as a solid, m.p. 91°-95° C. The nmr spectrum was consistent with the proposed structure.

reactant | 2-trimethylsilyl-1,3-dithiane | 0.083 mole, 16.0 grams | C[Si](C1SCCCS1)(C)C | C7H16S2Si
reactant | n-butyllithium | 0.083 mole, 2.1M, 39 mL | C(CCC)[Li]
reactant | cyclopropyl (4-chlorophenyl) ketone | 0.083 mole, 15.0 grams | ClC1=CC=C(C=C1)C(=O)C1CC1 | C10H9ClO
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-[(4-chlorophenyl)cyclopropylmethylene]-1,3-dithiane | 24.0 grams | ClC1=CC=C(C=C1)C(=C1SCCCS1)C1CC1 | C14H15ClS2
